US06794395B1
(33) 3-(Z)-(1-{4-[N-acetyl-N-(3-dimethylaminopropyl)-amino]-anilino}-1-ethyl-methylidene)-5,6-dimethoxy-2-indolinone
Prepared from 1-acetyl-3-(1-ethoxy-1-ethyl-methylidene)-5,6-dimethoxy-2-indolinone and N-acetyl-N-(3-dimethylamino-propyl)-p-phenylenediamine

reactant | 1-acetyl-3-(1-ethoxy-1-ethyl-methylidene)-5,6-dimethoxy-2-indolinone | C(C)(=O)N1C(C(C2=CC(=C(C=C12)OC)OC)=C(CC)OCC)=O | C17H21NO5
reactant | N-acetyl-N-(3-dimethylamino-propyl)-p-phenylenediamine | C(C)(=O)N(C1=CC=C(C=C1)N)CCCN(C)C | C13H21N3O
product | 3-(Z)-(1-{4-[N-acetyl-N-(3-dimethylaminopropyl)-amino]-anilino}-1-ethyl-methylidene)-5,6-dimethoxy-2-indolinone | C(C)(=O)N(CCCN(C)C)C1=CC=C(N\C(\CC)=C\2/C(NC3=CC(=C(C=C23)OC)OC)=O)C=C1 | C26H34N4O4
